US09382228B2
A mixture of 2-(1-methyl-1H-pyrazol-4-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine (11.88 g, 40.0 mmol) and NH4Cl (22.4 g, 419 mmol) in EtOH (200 mL) and water (200 mL) was treated portion-wise with iron powder (22.4 g, 401 mmol), stirred for 0.5 h, treated with additional NH4Cl (22.4 g, 419 mmol) and iron powder (22.4 g, 401 mmol) and stirred at RT for 3 h. The solids were removed via filtration through diatomaceous earth and washed with EtOAc and DCM. The filtrate was washed with water, the aqueous layer back-extracted with DCM (4×) and the combined organics were dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (MeOH/DCM) to afford 5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine (6.4 g, 60%). MS (ESI) m/z: 268.1 (M+H+).

reactant | 2-(1-methyl-1H-pyrazol-4-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine | 40.0 mmol, 11.88 g | CN1N=CC(=C1)C1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C14H11N5O3
reactant | NH4Cl | 419 mmol, 22.4 g | [NH4+].[Cl-]
reactant | NH4Cl | 419 mmol, 22.4 g | [NH4+].[Cl-]
solvent | EtOH | 200 mL | CCO | C2H6O
solvent | water | 200 mL | O | H2O
catalyst | iron | 401 mmol, 22.4 g | [Fe] | Fe
catalyst | iron | 401 mmol, 22.4 g | [Fe] | Fe
product | 5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine | 6.4 g, 60% | CN1N=CC(=C1)C1=NC=CC(=C1)OC=1C=CC(=NC1)N | C14H13N5O
